US05322847
3-(5-Fluorobenzothiazol-2-ylmethoxy)benzyl bromide
To a solution of 1.04 g of 3-(5-fluorobenzothiazol-2-ylmethoxy)benzyl alcohol (Preparation L) in 60 ml of dry tetrahydrofuran was added 2.38 g of carbontetrabromide and 1.89 g of triphenylphosphine and the reaction stirred under nitrogen at room temperature for 1.5 hours. The reaction mixture was filtered, treated with 100 ml of water and extracted with ethyl acetate. The extracts were washed with water and a brine solution and dried over sodium sulfate. The solvent was removed and the residual brown solid chromatographed on 200 g of silica gel using from 5-10% ethyl acetate--95-90% hexane (v:v). The fractions containing the product were combined and concentrated to give 910 mg of the titled product, m.p. 99°-100° C.

reactant | 3-(5-fluorobenzothiazol-2-ylmethoxy)benzyl alcohol | 1.04 g | FC=1C=CC2=C(N=C(S2)COC=2C=C(CO)C=CC2)C1 | C15H12FNO2S
reactant | carbontetrabromide | 2.38 g | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 1.89 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | 3-(5-Fluorobenzothiazol-2-ylmethoxy)benzyl bromide | 910 mg | FC=1C=CC2=C(N=C(S2)COC=2C=C(CBr)C=CC2)C1 | C15H11BrFNOS
